US07125901B2
Methyl 2-amino-5-[4-(methylthio)phenyl]-1,3-thiazole-4-carboxylate (8.8 g) was dissolved in pyridine (88 ml), and then acetyl chloride (6.7 ml) was added dropwise to the solution at 0° C. under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 30 minutes and at 50° C. for 2 hours. After cooled to 0° C., water was added to the solution. The precipitate was filtered in vacuo, and the solid was washed with ethyl ether to give methyl 2-(acetylamino)-5-[4-(methylthio)phenyl]-1,3-thiazole-4-carboxylate (9.3 g) as an off-white solid.

reactant | Methyl 2-amino-5-[4-(methylthio)phenyl]-1,3-thiazole-4-carboxylate | 8.8 g | NC=1SC(=C(N1)C(=O)OC)C1=CC=C(C=C1)SC | C12H12N2O2S2
reactant | acetyl chloride | 6.7 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | pyridine | 88 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-(acetylamino)-5-[4-(methylthio)phenyl]-1,3-thiazole-4-carboxylate | 9.3 g | C(C)(=O)NC=1SC(=C(N1)C(=O)OC)C1=CC=C(C=C1)SC | C14H14N2O3S2
